US06479524B1
c. 3-(4-bromo-2,5-dimethyl-phenyl)-4,4-dimethyl-4,5-dihydro-1H-pyrazol-5-one
3.5 g (11.7 mmol) of methyl 3-(4-bromo-2,5-dimethyl-phenyl)-2,2-dimethyl-3-oxo-propionate and 28 ml (28 mmol) of 1 molar hydrazine solution in tetrahydrofuran are refluxed in 50 ml of ethanol for 24 hours. The solvent is distilled off and the residue is recrystallised from ethanol.

reactant | methyl 3-(4-bromo-2,5-dimethyl-phenyl)-2,2-dimethyl-3-oxo-propionate | 11.7 mmol, 3.5 g | BrC1=CC(=C(C=C1C)C(C(C(=O)OC)(C)C)=O)C | C14H17BrO3
reactant | hydrazine | 28 mmol, 1 molar, 28 ml | NN | H4N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-(4-bromo-2,5-dimethyl-phenyl)-4,4-dimethyl-4,5-dihydro-1H-pyrazol-5-one | BrC1=CC(=C(C=C1C)C1=NNC(C1(C)C)=O)C | C13H15BrN2O
